US04732912
A solution of diethyl malonate (0.64 g.) in dimethylformamide (10 ml.) was added to a stirred suspension of sodium hydride (0.14 g. of a 50% suspension in mineral oil) in dimethylformamide (10 ml.) which was maintained under an atmosphere of argon, and the mixture was stirred and heated to 50° C. for 5 minutes and then cooled to laboratory temperature. 10-[(1RS, 2RS)-5-Methoxy-2-p-methoxyphenylindan-1yl]decyl bromide (1.2 g.) was added and the mixture was stirred at laboratory temperature for 16 hours and then diluted with water and extracted with diethyl ether. The extract was dried and evaporated to dryness and a solution of the residue (1.47 g.) in ethanol (10 ml.) was added dropwise to a stirred solution of potassium hydroxide (1.4 g.) in water (10 ml.) which was heated under reflux. The mixture was stirred and heated under reflux for 10 minutes, diluted with water and extracted with diethyl ether. The aqueous solution was acidified with concentrated aqueous hydrochloric acid and extracted with diethyl ether, and the extract was dried and evaporated to dryness. There was thus obtained as residue 12-[(1RS, 2RS)-5-methoxy-2-p-hydroxyphenylindan-1-yl]dodecanoic acid.

reactant | diethyl malonate | 0.64 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | [H-].[Na+]
reactant | 10-[(1RS, 2RS)-5-Methoxy-2-p-methoxyphenylindan-1yl]decyl bromide | 1.2 g | COC=1C=C2CC(C(C2=CC1)CCCCCCCCCCBr)C1=CC=C(C=C1)OC | C27H37BrO2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 12-[(1RS, 2RS)-5-methoxy-2-p-hydroxyphenylindan-1-yl]dodecanoic acid | COC=1C=C2CC(C(C2=CC1)CCCCCCCCCCCC(=O)O)C1=CC=C(C=C1)O | C28H38O4
